US04242278
700 mg (1.56 mmols) of 2-(2',2',2'-tribromoethyl)-3,3-dimethyl-4-bromocyclobutanone are stirred with a solution of 190 mg of NaOH in 5 ml of water, to which 0.5 ml of dioxane has been added, for 2 hours at room temperature. The mixture is then stirred for 1 hour at 80° C. The clear solution is worked up to the acid in the customary way. 410 mg (88% of theory) of cis-2-(2',2'-dibromovinyl)-3,3-dimethylcyclopropanecarboxylic acid are obtained.

reactant | 2-(2',2',2'-tribromoethyl)-3,3-dimethyl-4-bromocyclobutanone | 1.56 mmols, 700 mg | BrC(CC1C(C(C1(C)C)Br)=O)(Br)Br | C8H10Br4O
reactant | NaOH | 190 mg | [OH-].[Na+]
reactant | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | cis-2-(2',2'-dibromovinyl)-3,3-dimethylcyclopropanecarboxylic acid | 410 mg, 88% | BrC(=C[C@@H]1[C@@H](C1(C)C)C(=O)O)Br | C8H10Br2O2
